US06300342B1
1-[3-(4-cyano-phenyl)-propionyl]-6-benzylamino-1,2,3,4-tetrahydro-quinoline
2.9 g (9.5 mmol) of 6-amino1-[3-(4-cyano-phenyl)propionyl]-1,2,3,4-tetrahydro-quinoline are dissolved in 80 ml of methanol and 0.6 ml of acetic acid, combined with 1.06 g (10 mmol) of benzaldehyde and stirred for 20 minutes at 0° C. Then 0.63 g sodium cyanoborohydride are added in small batches, stirring is continued for half an hour and the mixture is then allowed to warm up to ambient temperature. The solution is then concentrated by rotary evaporation and the residue is taken up in a little ice water. Then the solution is acidified and sodium hydroxide solution is added until an alkaline reaction is obtained and the mixture is then extracted with me-thylene chloride. The dried solution is concentrated by rotary evaporation and the residue is chromatographed over a silica gel column with toluene/ethyl acetate (1:1).

reactant | 6-amino1-[3-(4-cyano-phenyl)propionyl]-1,2,3,4-tetrahydro-quinoline | 9.5 mmol, 2.9 g | NC=1C=C2CCCN(C2=CC1)C(CCC1=CC=C(C=C1)C#N)=O | C19H19N3O
reactant | benzaldehyde | 10 mmol, 1.06 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 0.63 g | C(#N)[BH3-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
product | 1-[3-(4-cyano-phenyl)-propionyl]-6-benzylamino-1,2,3,4-tetrahydro-quinoline | C(#N)C1=CC=C(C=C1)CCC(=O)N1CCCC2=CC(=CC=C12)NCC1=CC=CC=C1 | C26H25N3O
